US05358948
A mixture of 4-iodo-2-methoxybenzoic acid (750 mg) and thionyl chloride (7 ml) was stirred at reflux for 15min and then evaporated to give 4-iodo-2-methoxybenzoyl chloride. A solution of Intermediate 6 (629 mg) in THF (30 ml) was treated with a solution of sodium hydroxide (227 mg) in water (10 ml), followed by the 4-iodo-2-methoxybenzoyl chloride, and the mixture stirred at 23° under nitrogen for 24 h. 5M-Hydrochloric acid (1.5 ml) was added, followed by aqueous saturated sodium bicarbonate (10 ml), and the mixture evaporated. The residue was treated with water (50 ml), extracted with ethyl acetate (10×100 ml), and the combined, dried organic extracts were evaporated. The residue was adsorbed from hot ethanol (ca. 40 ml) onto silica gel (Merck 7734, 10 ml), and purified by FCC eluting with System A (945:50:5) to give a solid (780 mg). Crystallisation from ethanol (10 ml) gave the impure title compound, a portion of which (102 mg) was recrystallised from ethanol to give the pure title compound as fine white crystals (37 mg), m.p. 168°-170°.

reactant | 4-iodo-2-methoxybenzoic acid | 750 mg | IC1=CC(=C(C(=O)O)C=C1)OC | C8H7IO3
reactant | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-iodo-2-methoxybenzoyl chloride | IC1=CC(=C(C(=O)Cl)C=C1)OC | C8H6ClIO2
